US06610723B2
[3-(3,4-Dichloro-phenyl)-5-(2-methylamino-imidazol-1-ylmethyl)-3H-imidazol-4-yl]-methanol Hydrochloride (1:1)
A solution of {1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-yl}-methyl-amine (0.60 g, 1.7 mmol) in acetic acid (7 ml) and aqueous formaldehyde (2 ml of a 37% solution) was stirred at 20° C. for 96 h. The reaction mixture was evaporated to dryness and chromatographed [silica, elution with gradient CH2Cl2 to 50% (CH2Cl2/MeOH/aq. NH4OH=90:10:1)] to obtain the free base of the title compound. It was crystallized as the off-white hydrochloride salt (0.030 g, 5%). Mp.>180° C. dec. (MeOH/Et2O), MS: m/e=352 (M+H+).

reactant | {1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-yl}-methyl-amine | 1.7 mmol, 0.60 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)NC | C14H13Cl2N5
reactant | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
solvent | formaldehyde | C=O | CH2O
product | [3-(3,4-Dichloro-phenyl)-5-(2-methylamino-imidazol-1-ylmethyl)-3H-imidazol-4-yl]-methanol Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)N1C=NC(=C1CO)CN1C(=NC=C1)NC | InChI=1S/C15H15Cl2N5O.ClH/c1-18-15-19-4-5-21(15)7-13-14(8-23)22(9-20-13)10-2-3-11(16)12(17)6-10;/h2-6,9,23H,7-8H2,1H3,(H,18,19);1H
